US08293909B2
5-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)pyrazolo[1,5-a]pyridin-5-yl)-2-methoxy-6-methylnicotinic acid.
To a solution containing Methyl 5-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)pyrazolo[1,5-a]pyridin-5-yl)-2-methoxy-6-methylnicotinate (0.041 g, 0.088 mmol) and dioxane (0.44 mL) was added aqueous sodium hydroxide (0.44 mL, 2.0 M). The solution was maintained at room temperature for 18 h. The solution was adjusted to below pH 4 with aqueous HCl (1.0 mL, 1.0 N). 5-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)pyrazolo[1,5-a]pyridin-5-yl)-2-methoxy-6-methylnicotinic acid precipitated as a white solid and was filtered off, washed with water (3×2 mL) and air dried. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.98 (1H, br. s.), 8.73 (1H, d, J=7.03 Hz), 8.44 (1H, q, J=4.52 Hz), 8.06 (1H, s), 7.87-7.98 (2H, m), 7.29-7.39 (2H, m), 7.04 (1H, t, J=7.03 Hz), 3.98 (3H, s), 2.76 (3H, d, J=4.52 Hz), 2.42 (3H, s). LCMS retention time: 1.798 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna, 3 micron, C18, 2.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 0.8 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where solvent A was 5% CH3CN/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% CH3CN/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 453 (MH+).

reactant | Methyl 5-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)pyrazolo[1,5-a]pyridin-5-yl)-2-methoxy-6-methylnicotinate | 0.088 mmol, 0.041 g | FC=1C=2N(C=CC1C=1C(=NC(=C(C(=O)OC)C1)OC)C)N=C(C2C(NC)=O)C2=CC=C(C=C2)F | C24H20F2N4O4
reactant | sodium hydroxide | 2.0 M, 0.44 mL | [OH-].[Na+]
reactant | HCl | 1.0 N, 1.0 mL | Cl | ClH
solvent | dioxane | 0.44 mL | O1CCOCC1 | C4H8O2
product | 5-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)pyrazolo[1,5-a]pyridin-5-yl)-2-methoxy-6-methylnicotinic acid | FC=1C=2N(C=CC1C=1C(=NC(=C(C(=O)O)C1)OC)C)N=C(C2C(NC)=O)C2=CC=C(C=C2)F | C23H18F2N4O4
